US08957068B2
Step 3: Preparation of 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinaldehyde
To a solution of (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol (4.00 g, 16.56 mmol) in EtOAc (15 mL) was added manganese(IV) oxide (16.93 g, 166 mmol). The reaction was heated with microwave at 120° C. for 30 minutes. The mixture was then filtered through a pad of celite, and rinsed with EtOAc. The filtrated was concentrated to give crude product (3.38 g).

reactant | (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanol | 16.56 mmol, 4.00 g | ClC=1C=C(C=NC1OCC(F)(F)F)CO | C8H7ClF3NO2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | manganese(IV) oxide | 166 mmol, 16.93 g | [O-2].[Mn+4].[O-2]
product | 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinaldehyde | 3.38 g | ClC=1C(=NC=C(C=O)C1)OCC(F)(F)F | C8H5ClF3NO2
